US07598384B2
2-Butylsulfanyl-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carbonitrile
To a solution of 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile (0.5 g, 2.2 mmol) in DMF (4 ml) was added 10% aqueous potassium hydroxide (1.23 ml), followed by dropwise addition of 1-bromobutane (0.24 ml, 2.2 mmol). The mixture was stirred at room temperature for 12 h, then water (12 ml) was added. The product was extracted with diethyl ether. The extract was washed with water and dried over sodium sulfate. Filtration and concentration under reduced pressure afforded the residue which was purified by flash chromatography on silica gel (petroleum ether-ethyl acetate, 10:1) to give the title compound (0.41 g, 59%) as a colorless solid.

reactant | 7,7-dimethyl-5-oxo-2-thioxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile | 2.2 mmol, 0.5 g | CC1(CC(C=2C=C(C(NC2C1)=S)C#N)=O)C | C12H12N2OS
reactant | potassium hydroxide | 1.23 ml | [OH-].[K+]
reactant | 1-bromobutane | 2.2 mmol, 0.24 ml | BrCCCC | C4H9Br
reactant | water | 12 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-Butylsulfanyl-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carbonitrile | 0.41 g, 59% | C(CCC)SC1=NC=2CC(CC(C2C=C1C#N)=O)(C)C | C16H20N2OS
